US04260768
4-Methyl-2-(2H-Benzotriazol-2-Yl)Phenyl Acrylate
Into a flask provided with a magnetic stirrer is added 10.0 g of 2-(2H-benzotriazol-2-yl)-4-methylphenol dissolved in 350 ml acetone. Then 10% NaOH is added dropwise until the pH is 9. With stirring, 4.1 g of acryloyl chloride is added dropwise while maintaining the pH between 7 and 9 by addition of dilute base. After the addition is complete, the solvent is evaporated leaving a yellow residue which is dissolved in 80 ml ether and extracted with an equal volume of 5% NaOH solution until the aqueous washings are colorless. After evaporation of the ether, there is left 8.4 g of a yellow residue as the product, whose structure, is confirmed by NMR. The yield is 67.7%.

reactant | 2-(2H-benzotriazol-2-yl)-4-methylphenol | 10.0 g | N=1N(N=C2C1C=CC=C2)C2=C(C=CC(=C2)C)O | C13H11N3O
reactant | NaOH | [OH-].[Na+]
reactant | acryloyl chloride | 4.1 g | C(C=C)(=O)Cl | C3H3ClO
solvent | acetone | 350 ml | CC(=O)C | C3H6O
solvent | ether | 80 ml | CCOCC | C4H10O
product | 4-Methyl-2-(2H-Benzotriazol-2-Yl)Phenyl Acrylate | yield is 67.7% | C(C=C)(=O)OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC=C2 | C16H13N3O2
